US04045559
phenyl nitro(tetrahydro-2H-1,3-thiazin-2-ylidene)acetate (66) Ethyl nitro(tetrahydro-2H-1,3-thiazin-2-ylidene)acetate (A)
To a mixture of 235 g of 5,6-dihydro-2-(methylthio)-4H-1,3-thiazine (A. F. McKay, et al., J. Am. Chem. Soc., 80, 3339 (1958)) and 2 g of zinc chloride, at approximately 115° in a nitrogen atmosphere, 263 g of ethyl nitroacetate (S. Zea, et al., Kogyo Kagaku Zasshi, 74, 70 (1971)) was added dropwise over a 1.5 hour period. The mixture was held at 110°-120°. When evolution of methyl mercaptan ceased after 45 minutes further stirring of the heated mixture, 1 g of zinc chloride was added and the mixture was stirred at about 115° for 1.25 hours. An additional 1 g of zinc chloride then was added and stirring of the mixture at about 115° was continued for 1.5 hours. The mixture then was poured into a cooled solution of 2/1 ether/isopropyl alcohol mixture. The crystallized product was collected, washed with ether and dried under reduced pressure to leave a tan solid, m.p. 100°-102°, which on recrystallization from methanol gave A as a pale yellow solid, m.p. 105°-106°.

reactant | 5,6-dihydro-2-(methylthio)-4H-1,3-thiazine | 235 g | CSC=1SCCCN1 | C5H9NS2
reactant | ethyl nitroacetate | 263 g | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | methyl mercaptan | CS | CH4S
reactant | ether isopropyl alcohol | CCOCC.C(C)(C)O
catalyst | zinc chloride | 2 g | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 1 g | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 1 g | [Cl-].[Zn+2].[Cl-]
product | phenyl nitro(tetrahydro-2H-1,3-thiazin-2-ylidene)acetate | [N+](=O)([O-])C(C(=O)OC1=CC=CC=C1)=C1SCCCN1 | C12H12N2O4S
